US06329483B1
N-Hexadecyl-N′-vinylimidazolium bromide (Example 4)
15 g of N-vinylimidazole and 50 g of 1-bromohexadecane were stirred in a 500 ml vessel at 60° C. for 8 h. Then, 100 ml of ethyl acetate were added to this mixture while stirring. After a clear solution had formed, the heating and stirring was switched off. A colorless crystalline precipitate formed during the cooling to room temperature and was filtered off and dried.

reactant | N-vinylimidazole | 15 g | C(=C)N1C=NC=C1 | C5H6N2
reactant | 1-bromohexadecane | 50 g | BrCCCCCCCCCCCCCCCC | C16H33Br
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-Hexadecyl-N′-vinylimidazolium bromide | [Br-].C(CCCCCCCCCCCCCCC)[N+]1=CN(C=C1)C=C | InChI=1S/C21H39N2.BrH/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-23-20-19-22(4-2)21-23;/h4,19-21H,2-3,5-18H2,1H3;1H/q+1;/p-1
